US05420298
Using an analogous procedure to that described in Example 3, 3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine was reacted with methyl bromoacetate to give 3-methoxy-1-(methoxycarbonylmethyl)-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine in 33Z yield, m.p. 78°-80° C.

reactant | 3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine | COC1(CNCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C22H23NO2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 3-methoxy-1-(methoxycarbonylmethyl)-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine | COC1(CN(CC1)CC(=O)OC)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C25H27NO4
